US05268380
To a stirred solution of 10.5 parts of N-[4-[(1H-imidazol-1-yl)phenylmethyl]phenyl]-3-phenyl-2-propenamide in 110 parts of chlorobenzene were added 18.5 parts of aluminium chloride. The reaction mixture was stirred for 3 hours at 120° C. After cooling to room temperature, the product was extracted with ethyl acetate. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2-propanone and methanol. The product was filtered off and dried, yielding 1.3 parts (15.4%) of 6-[(1H-imidazol-1-yl)phenylmethyl]-2(1H) -quinolinone; mp. 226.9° C. (compound 2).

reactant | N-[4-[(1H-imidazol-1-yl)phenylmethyl]phenyl]-3-phenyl-2-propenamide | N1(C=NC=C1)C(C1=CC=C(C=C1)NC(C=CC1=CC=CC=C1)=O)C1=CC=CC=C1 | C25H21N3O
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 6-[(1H-imidazol-1-yl)phenylmethyl]-2(1H) -quinolinone | 15.4% | N1(C=NC=C1)C(C=1C=C2C=CC(NC2=CC1)=O)C1=CC=CC=C1 | C19H15N3O
